US06673795B2
In analogy to the procedure described in example 20b, 4-chloro-2-(2-hydroxy-ethyl-amino)-6-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile was treated with 4-(4-fluorophenyl)-piperidine hydrochloride in dioxane in the presence of N-ethyl-diisopropyl-amine at 80° C. to yield the 4-[4-(4-fluoro-phenyl)-piperidin-1-yl]-2-(2-hydroxy-ethyl-amino)-6-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile as an amorphous, white solid; MS: [M+H]+=448.

reactant | 4-chloro-2-(2-hydroxy-ethyl-amino)-6-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCC=1C=NC=CC1)NCCO | C13H13ClN6O
reactant | 4-(4-fluorophenyl)-piperidine hydrochloride | Cl.FC1=CC=C(C=C1)C1CCNCC1
reactant | N-ethyl-diisopropyl-amine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[4-(4-fluoro-phenyl)-piperidin-1-yl]-2-(2-hydroxy-ethyl-amino)-6-[(pyridin-3-ylmethyl)-amino]-pyrimidine-5-carbonitrile | FC1=CC=C(C=C1)C1CCN(CC1)C1=NC(=NC(=C1C#N)NCC=1C=NC=CC1)NCCO | C24H26FN7O
